US05684011
Step 3: 4-bromo-4,4-difluorobutyl methanesulfonate.
A stirred solution of 4-bromo-4,4-difluorobutanol (0.57 g) in dry diethylether (5 cm3) was cooled to 0° C. Maintaining this temperature, triethylamine (1.7 cm3) was added. After ten minutes methanesulfonyl chloride (0.3 cm3) was added and the mixture stirred for a further hour at 0° C. The reaction mixture was poured into 2M hydrochloric acid (2 cm3) and diethylether (20 cm3). The organic phase was separated, washed with saturated brine, then passed through a plug of silica gel eluting with further diethylether. The diethylether fractions were evaporated under reduced pressure to give a light yellow oil (0.705 g). 1H NMR (CDCl3): δ2.04-2.18(2H,m); 2.46-2.64(2H,m); 3.04(3H,s); 4.32(2H,t).

reactant | 4-bromo-4,4-difluorobutanol | 0.57 g | BrC(CCCO)(F)F | C4H7BrF2O
reactant | triethylamine | 1.7 cm3 | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.3 cm3 | CS(=O)(=O)Cl | CH3ClO2S
reactant | hydrochloric acid | 2M, 2 cm3 | Cl | ClH
solvent | diethylether | 5 cm3 | C(C)OCC | C4H10O
solvent | diethylether | 20 cm3 | C(C)OCC | C4H10O
product | 4-bromo-4,4-difluorobutyl methanesulfonate | 0.705 g | CS(=O)(=O)OCCCC(F)(F)Br | C5H9BrF2O3S
